US06566360B1
2-[5-(4-Hydroxypiperidine-1-sulphonyl)-2-ethoxyphenyl]-5-ethyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one
By the same method, starting with 640 mg (1.5 mmol) of 4-ethoxy-3-(5-ethyl-4-oxo-7-propyl-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride and 460 mg (45 mmol) of 4-hydroxypiperidine, 485 mg (66%) of 2-[5-(4-hydroxy-piperidine-1-sulphonyl)-2-ethoxyphenyl]-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one are obtained. Rf=0.37 (dichloromethane/methanol=19:1)

reactant | 4-ethoxy-3-(5-ethyl-4-oxo-7-propyl-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride | 1.5 mmol, 640 mg | C(C)OC1=C(C=C(C=C1)S(=O)(=O)Cl)C1=NN2C(C(N1)=O)=C(N=C2CCC)CC | C18H21ClN4O4S
reactant | 4-hydroxypiperidine | 45 mmol, 460 mg | OC1CCNCC1 | C5H11NO
reactant | 2-[5-(4-hydroxy-piperidine-1-sulphonyl)-2-ethoxyphenyl]-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | 485 mg | OC1CCN(CC1)S(=O)(=O)C=1C=CC(=C(C1)C1=NN2C(C(N1)=O)=CN=C2CCC)OCC | C21H27N5O5S
solvent | dichloromethane methanol | ClCCl.CO
product | 2-[5-(4-Hydroxypiperidine-1-sulphonyl)-2-ethoxyphenyl]-5-ethyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | OC1CCN(CC1)S(=O)(=O)C=1C=CC(=C(C1)C1=NN2C(C(N1)=O)=C(N=C2CCC)CC)OCC | C23H31N5O5S
